US05198591
According to the present invention the following reactions are conducted simultaneously in a reaction system comprising step I of the process: reaction of phenol with acetone, reaction of phenol with p-isopropenylphenol resulting from thermal decomposition of process by-products and recycled to the reaction system, and isomerizational rearrangement of process by-products to obtain bisphenol A in the presence of a micro- and macroporous cation-exchange resin catalyst mixture. Step II of the process comprises cooling the post-reaction mixture together with water and acetone to obtain a precipitate of bisphenol-A/phenol in phenolic solution. Step III of the process comprises separation of the precipitate into crystalline bisphenol-A/phenol adduct and phenolic mother liquor I. The crystalline adduct is washed with the phenolic liquor and step IV follows, wherein the bisphenolA/phenol adduct obtained in step III is dissolved in the phenolic solution and the resulting mixture is cooled to obtain a bisphenol-A/phenol precipitate in phenolic solution. Step V comprises separation of the precipitate obtained in step IV into the crystalline bisphenol-A/phenol adduct and mother liquor II to be turned back to step III of the process. The bisphenol-A/phenol crystalline adduct is then washed with phenolic solution and step VI follows, wherein a high-purity bisphenol A is recovered by removal of phenol from the bisphenol-A/phenol adduct obtained in step V. Step VII of the process consists in distillation of the phenolic mother liquor I obtained in step III, and removal of acetone, water and part of phenol therefrom. Dewatered phenol liquor is turned back to step I of the process to the reaction zone and step VIII follows, consisting of thermal catalytic decomposition of part of the mother liquor I obtained in step(s) III and/or VII, resulting in a distillate comprising phenol, isopropenylphenol and process by-products. Step IX consists of catalytic rearrangement of the reactive components of the distillate obtained in step VIII, while leaving the p-isopropenylphenol contained therein substantially intact and the rearranged distillate is recycled to step I of the process.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | p-isopropenylphenol | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
solvent | acetone | CC(=O)C | C3H6O
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
